US04782141
0.087 g (0.444 millimoles) of barium carbonate is dissolved in 1 ml of 48% hydrogen bromide under slight warming. The solvent is removed in vacuo and the residue is rubbed with ether. The barium bromide is filtered and washed with dichloro methane until all the traces of bromine are removed. The yellow color of barium bromide turns into light beige. This salt is dissolved in 10 ml of methanol and the solution is added to a solution of 1.0 g (0.887 millimoles) of primycin sulfate and 80 ml of methanol. The suspension thus obtained is heated to boiling for 20 minutes under stirring. The precipitated barium sulfate is filtered and the filtrate is evaporated in vacuo. The residue is treated with ether and filtered. The solid is washed on the filter first with 10 ml of a 2:1 mixture of acetone and water and later with 10 ml of a dichloro methane. Thus 0.91 g of beige primycin bromide is obtained, yield 87.2%. Mp.: 138° C., /α/D25 =-20°.

reactant | barium carbonate | 0.444 millimoles, 0.087 g | C([O-])([O-])=O.[Ba+2]
reactant | primycin sulfate | 0.887 millimoles, 1.0 g | CCCCC1C(C(CCC(CCCC(CCCC(/C(=C/C(C(CC(CC(CC(CC(CCCC/C(=C/C(C(OC1=O)C(C)C(CCCNC(=N)N)O)C)/C)O)O)O)O)O)O[C@@H]2[C@H]([C@@H]([C@H](O2)CO)O)O)/C)O)O)O)C)O.S(=O)(=O)([O-])[O-]
reactant | methanol | 80 ml | CO | CH4O
reactant | hydrogen bromide | 1 ml | Br | BrH
product | primycin bromide | 0.91 g, yield 87.2% | CCCCC1C(C(CCC(CCCC(CCCC(/C(=C/C(C(CC(CC(CC(CC(CCCC/C(=C/C(C(OC1=O)C(C)C(CCCNC(=N)N)O)C)/C)O)O)O)O)O)O[C@@H]2[C@H]([C@@H]([C@H](O2)CO)O)O)/C)O)O)O)C)O.[Br-] | InChI=1S/C55H103N3O17.BrH/c1-7-8-19-43-49(69)33(3)22-23-38(61)17-11-16-37(60)18-12-20-44(66)34(4)26-47(73-54-51(71)50(70)48(31-59)74-54)46(68)30-42(65)29-41(64)28-40(63)27-39(62)15-10-9-14-32(2)25-35(5)52(75-53(43)72)36(6)45(67)21-13-24-58-55(56)57;/h25-26,33,35-52,54,59-71H,7-24,27-31H2,1-6H3,(H4,56,57,58);1H/p-1/b32-25+,34-26+;/t33?,35?,36?,37?,38?,39?,40?,41?,42?,43?,44?,45?,46?,47?,48-,49?,50-,51+,52?,54+;/m1./s1
